US08466186B2
(b) 1-(4,5-Diamino-2-chloro-phenyl)-pyrrolidine-2-carboxylic acid dimethylamide
Tin dichloride dihydrate (710 mg, 3.1 mmol) was added to 4-chloro-5-(2-dimethylcarbamoyl-pyrrolidin-1-yl)-2-nitroaniline (200 mg, 0.6 mmol) in EtOAc (5 mL). The reaction mixture was stirred at reflux for 3 h, cooled and poured into sat.aq. NaHCO3-solution. The mixture was filtered through a pad of celite. The organic layer was dried over Na2SO4 and concentrated to give the sub-title compound.

reactant | Tin dichloride dihydrate | 3.1 mmol, 710 mg | O.O.[Sn](Cl)Cl
reactant | 4-chloro-5-(2-dimethylcarbamoyl-pyrrolidin-1-yl)-2-nitroaniline | 0.6 mmol, 200 mg | ClC1=CC(=C(N)C=C1N1C(CCC1)C(N(C)C)=O)[N+](=O)[O-] | C13H17ClN4O3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
product | 1-(4,5-Diamino-2-chloro-phenyl)-pyrrolidine-2-carboxylic acid dimethylamide | CN(C(=O)C1N(CCC1)C1=C(C=C(C(=C1)N)N)Cl)C | C13H19ClN4O
